Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___
 
Chief Complaint:
aphasia
 
Major Surgical or Invasive Procedure:
N/A

 
History of Present Illness:
The patient is a ___ PMHx mild dementia and HTN who presents
to ___ ___ with aphasia. History is provided from OMR, pt
(limited by aphasia) and family (daughter and husband).

Pt has mild dementia and at baseline is not oriented to time. 
She
is able to walk independently but needs some assistance with
ADLs. She speaks fluently and is able to read the newspaper and
watch TV.

On ___ (day prior to presentation), around 12p, daughter noted 
pt
to suddenly be "jibbering and jabbering" and "talking off the
wall". Pt could understand what people were saying to her just
could not get her words out. Her speech was also slurred.
Daughter noticed right facial drooping. Pt also dropped a cup 
and
husband thought that her right arm may be weak. The family then
went on errands for the day. When driving to the bank, pt seemed
confused and thought they were going to the doctor ___ her
daughter). Pt denied any weakness or numbness at this time.
Symptoms then resolved around 16:00. Pt ate dinner normally and
had no other issues the rest of the evening.

On ___, pt's family was telling her son about these symptoms and
son stated they should go to the ED. En route to the ED, around
11a, symptoms recurred (slurred speech with right facial droop
and difficulty getting her words out).

Pt was initially brought to ___. VS at arrival: 98.3 88
133/67 18 96% RA. Labs (CBC, chem 7) unremarkable. NCHCT
unremarkable. tPA was not administered due to unclear timeline 
of
symptoms and it was also not entirely clear if pt had returned 
to
her baseline between episodes. Pt was then transferred to ___
for further management.

At ___, VSS and normal. NIHSS 5 (age/month, L NLFF, aphasia,
dysarthria). Labs/UA unremarkable. CTA H/N showed patent 
vessels.
Pt presented within extended tPA window; however, again due to
unclear timeline and concern for not complete return to baseline
between episodes tPA was not administered.

On neurologic review of systems, the patient denies headache,
loss of vision, diplopia, dysphagia. Denies focal muscle
weakness, numbness, parasthesia. Denies loss of sensation. 
Denies
bowel or bladder incontinence or retention. Denies difficulty
with gait.

On general review of systems, the patient denies fevers, chest
pain, palpitations, cough, nausea, vomiting, diarrhea,
constipation, abdominal pain, or rash.

 
Past Medical History:
Hypothyroidism
HTN
Mild dementia
 
Social History:
___
Family History:
heart disease
 
Physical Exam:
ADMISSION EXAMINATION:
Vitals: 97.9 88 143/65 16 99% RA 
General: NAD, resting comfortably, well-appearing
HEENT: NCAT, no oropharyngeal lesions, MMM, sclerae anicteric
Neck: Supple
___: RRR
Pulmonary: CTAB
Abdomen: Soft, NT, ND
Extremities: Warm, no edema
Skin: No rashes or lesions

Neurologic Examination:
- Mental Status - Awake, alert, oriented to person only.
Attentive with following commands. Speaks ___ word phrases with
paraphasic errors. On stroke card, said "hamper" for hammock and
"octopus" for cactus. Able to read. Repetition impaired, has
paraphasic errors. Follows 1 and 2-step commands. No evidence of
hemineglect. No left-right agnosia.

- Cranial Nerves - PERRL 3->2 brisk. VF full to finger wiggling.
EOMI, no nystagmus. V1-V3 without deficits to light touch
bilaterally. R NLFF. Hearing intact to finger rub bilaterally.
Palate elevation symmetric. Mild dysarthria. Trapezius strength
___ bilaterally. Tongue midline.

- Motor - Normal bulk and tone. +R pronator drift. No tremor or
asterixis.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5
R  5    ___   5  4+ 4+ 5   5    5  5     5     5

- Sensory - No deficits to light touch bilaterally.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    3   2
R  2  2    2    3   2
Plantar response flexor bilaterally.

- Coordination - No dysmetria with finger to nose testing
bilaterally.

- Gait - Deferred.
=======================================================
DISCHARGE EXAMINATION:
Tm 98.6 Tc 97.6 BP 167/84 HR 64 RR 18 Sat95RA
General: NAD, resting comfortably, well-appearing
HEENT: NCAT, no oropharyngeal lesions, MMM, sclerae anicteric
Neck: Supple
___: RRR
Pulmonary: CTAB
Abdomen: Soft, NT, ND
Extremities: Warm, no edema
Skin: No rashes or lesions

Neurologic Examination:
- Mental Status - Awake, alert, attentive to examiner. Oriented 
to self and "hospital", otherwise unable to state name of 
hospital or date. Speech is fluent with frequent semantic and 
phonemic paraphasic errors. Markedly improved naming, able to 
name most low frequency objects (today was only unable to get 
"cuticle"). Comprehension intact for grammatically simple 
two-step and cross body commands, has some trouble with 
grammatically complex commands and commands longer than 2 steps. 
Repetition intact for phrases ("It is a sunny day but I cannot 
go outside"), but has some more difficulty with purely semantic 
phrases ("no if, ands, or buts"). Able to read, but has frequent 
phonemic paraphasic errors. No evidence of apraxia or neglect.

- Cranial Nerves - PERRL 3->2 brisk. VF full to finger wiggling.
EOMI, no nystagmus. V1-V3 without deficits to light touch
bilaterally. R NLFF with mildly decreased dysarthria. Hearing 
intact to finger rub bilaterally. Palate elevation symmetric. 
Mild dysarthria for lingual and guttural sounds. Trapezius 
strength ___ bilaterally. Tongue midline.

- Motor - Normal bulk and tone. +R pronator drift with cupping. 
No tremor or
asterixis.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5
R  5    5   4+  ___ 4+ 5   5    5  5     5     5

- Sensory - Reports subtle (improving) deficit to pinprick over 
right hemibody ~80% of normal

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    3   2
R  2  2    2    3   2
Plantar response flexor bilaterally.

- Coordination - No dysmetria with finger to nose testing
bilaterally.

- Gait - Pt ambulates with slightly narrow base of support,
increased lateral lean and inattention to the R. The pt was
unable to avoid objects placed on the R. Pt with imbalance noted
with DGI testing requiring min A to regain balance.
 
Pertinent Results:
====
LABS
====
___ 01:10PM BLOOD WBC-9.2 RBC-4.06 Hgb-11.8 Hct-36.3 MCV-89 
MCH-29.1 MCHC-32.5 RDW-14.7 RDWSD-47.9* Plt ___
___ 06:30AM BLOOD WBC-7.2 RBC-4.15 Hgb-11.9 Hct-36.8 MCV-89 
MCH-28.7 MCHC-32.3 RDW-14.8 RDWSD-48.0* Plt ___
___ 01:10PM BLOOD Neuts-61.3 ___ Monos-9.1 Eos-2.2 
Baso-1.1* Im ___ AbsNeut-5.69 AbsLymp-2.41 AbsMono-0.84* 
AbsEos-0.20 AbsBaso-0.10*
___ 01:10PM BLOOD ___ PTT-30.1 ___
___ 01:10PM BLOOD Glucose-93 UreaN-14 Creat-0.8 Na-140 
K-4.3 Cl-104 HCO3-21* AnGap-19
___ 06:30AM BLOOD Glucose-91 UreaN-11 Creat-0.7 Na-138 
K-3.7 Cl-103 HCO3-25 AnGap-14
___ 01:10PM BLOOD ALT-9 AST-20 AlkPhos-86 TotBili-0.3
___ 01:10PM BLOOD cTropnT-<0.01
___ 01:10PM BLOOD Albumin-4.0 Calcium-8.9 Phos-2.7 Mg-2.1
___ 06:30AM BLOOD %HbA1c-5.1 eAG-100
___ 06:30AM BLOOD Triglyc-77 HDL-52 CHOL/HD-3.2 LDLcalc-101
___ 06:30AM BLOOD TSH-1.4
___ 01:10PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 01:39PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ 01:39PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

=======
IMAGING
=======
CTA H&N - ___
1. Normal head and neck CTA.  Mild to moderate atherosclerotic 
disease. 
2. Superimposed acute hypodensity within the left basal ganglia 
and sub 
insular region on a background of chronic small vessel ischemic 
disease, 
concerning for an acute infarction.  An MRI is recommended for 
further 
evaluation. 
  
MRI HEAD STROKE PROTOCOL - ___
1. Acute/subacute infarction involving the left periventricular 
frontal lobe white matter with extension to the basal ganglia 
and left sub insular region.  No definite evidence of underlying 
hemorrhage. 
2. Scattered punctate foci of susceptibility artifact throughout 
the brain 
bilaterally may be sequelae of mineralization or chronic micro 
hemorrhages, amyloid deposits is also a consideration. 
3. Chronic small ischemic vessel disease and global atrophy. 

ECHO - ___
Mild symmetric left ventricular hypertrophy with preserved 
regional and global biventricular systolic function. No definite 
structural cardiac source of embolism identified.
 
Brief Hospital Course:
Ms. ___ was admitted to the Neurology floor. MRI brain 
revealed a L insular infarct. Highest concern was for 
cardioembolic etiology given location and size of infarct. She 
was monitored on telemetry, without evidence of arrhythmia 
throughout her hospital stay. Stroke risk factors, including 
HbA1c (5.1%) and LDL (101) were checked. Her home amlodipine was 
originally held for permissive hypertension, but this was later 
restarted with good control of her BP. She was started on ASA 81 
and atorvastatin 40 mg daily. 
She was evaluated by SLP and cleared for a regular diet with 
thin liquids, and who recommended outpatient language therapy. 
She was evaluated by ___ who recommended discharge to 
___ rehab. 

Transitional Issues: 
- As suspicion for tachyarrhythmia is high, Ms. ___ will be 
discharged with a 30-day cardiac event monitor. If this shows a 
paroxysmal tachyarrhythmia, her PCP ___ need to discuss 
risks/benefits of anticoagulation. 
AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed – () No  
2. DVT Prophylaxis administered? (x) Yes - () No  
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No  
4. LDL documented? (x) Yes (LDL = 101) - () No  
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 100) (x) Yes - () No [if 
LDL >100, reason not given: ]  
6. Smoking cessation counseling given? (x) Yes - () No [reason 
() non-smoker - () unable to participate]  
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No  
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No  
9. Discharged on statin therapy? (x) Yes - () No [if LDL >100, 
reason not given: ]  
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No  
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - (x) N/A  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 75 mcg PO DAILY 
2. amLODIPine 5 mg PO DAILY 
3. Memantine 5 mg PO BID 

 
Discharge Medications:
1. amLODIPine 5 mg PO DAILY 
2. Levothyroxine Sodium 75 mcg PO DAILY 
3. Memantine 5 mg PO BID 
4. Acetaminophen 650 mg PO Q4H:PRN pain or temp > ___ 
5. Aspirin 81 mg PO DAILY 
6. Atorvastatin 40 mg PO QPM 
7. Senna 8.6 mg PO BID:PRN Constipation 

 
Discharge Disposition:
Extended Care
 
Facility:
___ 
___)
 
Discharge Diagnosis:
Acute ischemic stroke

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance

 
Discharge Instructions:
Dear Ms. ___,  
 
You were hospitalized due to symptoms of speech difficulty and 
right side weakness resulting from an ACUTE ISCHEMIC STROKE, a 
condition where a blood vessel providing oxygen and nutrients to 
the brain is blocked by a clot. The brain is the part of your 
body that controls and directs all the other parts of your body, 
so damage to the brain from being deprived of its blood supply 
can result in a variety of symptoms.  
 
Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
- high blood pressure
- high cholesterol  
 
We are changing your medications as follows:  
- starting aspirin 80mg daily
- starting atorvastatin 40mg daily
 
Please take your other medications as prescribed.  
 
Please follow-up with Neurology and your primary care physician. 
 
 
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
- sudden partial or complete loss of vision  
- sudden loss of the ability to speak words from your mouth  
- sudden loss of the ability to understand others speaking to 
you  
- sudden weakness of one side of the body  
- sudden drooping of one side of the face  
- sudden loss of sensation of one side of the body  
 
Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___